US20010049374A1
7-Methoxy-2-trifluoromethanesulfonyloxy naphthalene
A solution of 7-methoxy-2-naphthol (3.24 g, 18 mmole) in DMF (20 mL) and methylene chloride (20 mL) was treated with N-phenyl trifluoromethanesulfonimide (6.6 g, 18 mmole) and triethylamine (5.2 mL, 37 mmole), stirred 20 h at room temperature, diluted with CH2Cl2 (100 mL) , washed sequentially with distilled water, 20 % KOH and brine, dried (MgSO4) and concentrated to provide the title compound as a clear oil.

reactant | 7-methoxy-2-naphthol | 18 mmole, 3.24 g | COC1=CC=C2C=CC(=CC2=C1)O | C11H10O2
reactant | N-phenyl trifluoromethanesulfonimide | 18 mmole, 6.6 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 37 mmole, 5.2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 7-Methoxy-2-trifluoromethanesulfonyloxy naphthalene | COC1=CC=C2C=CC(=CC2=C1)OS(=O)(=O)C(F)(F)F | C12H9F3O4S
